US07459554B2
1-(3-benzyloxy-4-methoxyphenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine:
1-(3-Benzyloxy-4-methoxyphenyl)-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine: Cyclobutanecarboxylic acid [(3-benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-amide (308 mg, 0.703 mmol) was dissolved in POCl3 (5 ml) and heated at 55° C. for 17 h. After that time, the excess POCl3 was removed in vacuo and the remaining mixture was basified with NH3 (2 N in iPrOH). The precipitate formed was filtered off and washed with CH2Cl2, and the filtrate was purified by chromatography on silica gel to obtain a yellow-brown solid of the title compound (87% purity by LC-MS); 1H NMR (DMSO-d6, 400 MHz) δ 2.03-2.20 (m, 2H), 2.47-2.67 (m, 4H), 3.95 (s, 3H), 5.22 (s, 2H), 7.00 (d, 1H, J=8.0 Hz), 7.25-7.47 (m, 8H); MS (ES): 420.0/422.1 (M/M+2).

reactant | 1-(3-Benzyloxy-4-methoxyphenyl)-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=1N=C(N2C1C(=NC=C2)Cl)C2CCC2 | C24H22ClN3O2
reactant | Cyclobutanecarboxylic acid [(3-benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-amide | 0.703 mmol, 308 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C1=NC=CN=C1Cl)NC(=O)C1CCC1 | C24H24ClN3O3
solvent | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-(3-benzyloxy-4-methoxyphenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine | 87% | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=1N=C(N2C1C(=NC=C2)N)C2CCC2 | C24H24N4O2
